US07488827B2
2-{[(3-fluorophenyl)methyl]oxy}ethanol
Ethylene glycol (0.1 mL, 1.79 mmol) was added to NaH (46 mg, 1.81 mmol, 95% in oil) in THF (5 mL). 1-(Bromomethyl)-3-fluorobenzene (0.22 mL, 1.79 mmol) was added to the reaction, and the reaction was heated at 60° C. for 5 days. H2O (2 mL) and EtOAc (2 mL) were added, and the layers were separated via pipette. The aqueous layer was extracted with EtOAc (3×1 mL), and the combined organic layers were washed with saturated NaCl (1×2 mL), dried (Na2SO4), and concentrated. The crude product was purified on a SPE cartridge (5 g silica) eluting with the following 10 mL fractions: 30% EtOAc/hexanes (fractions 1,2), 50% EtOAc/hexanes (fraction 3), and 75% EtOAc/hexanes (fraction 4) to give the title compound (76.2 mg, 25%). The product was characterized by 1H NMR (400 MHz) in CDCl3.

reactant | Ethylene glycol | 1.79 mmol, 0.1 mL | C(CO)O | C2H6O2
reactant | NaH | 1.81 mmol, 46 mg | [H-].[Na+]
reactant | 1-(Bromomethyl)-3-fluorobenzene | 1.79 mmol, 0.22 mL | BrCC1=CC(=CC=C1)F | C7H6BrF
reactant | H2O | 2 mL | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 2 mL | CCOC(=O)C | C4H8O2
product | 2-{[(3-fluorophenyl)methyl]oxy}ethanol | 76.2 mg, 25% | FC=1C=C(C=CC1)COCCO | C9H11FO2
